US06943188B2
i) 1-(2-Aminophenoxy)-3-[3-(4-chlorophenoxy)-1-pyrrolidinyl]-2-propanol Dihydrochloride
A mixture of N-(2-{3-[3-(4-chlorophenoxy)-1-pyrrolidinyl]-2-hydroxypropoxy}phenyl)acetamide (0.95 g, 2.34 mmol) and concentrated hydrochloric acid (25 mL) was heated (100-105° C.) for 3 hours then allowed to stand at room temperature overnight. The mixture was concentrated at reduced pressure to a third of its volume basified with saturated sodium hydrogen carbonate. The resulting suspension was extracted twice with ethyl acetate. The organic extracts were dried, the solvent was evaporated at reduced pressure to give a pale brown oil. This oil was dissolved in a to minimum amount of methanol, diluted with ethyl ether and the product precipitated by addition of HCl-saturated ethyl ether. The product was filtered to afford the subtitle product (0.93 g, 91.2%).

reactant | N-(2-{3-[3-(4-chlorophenoxy)-1-pyrrolidinyl]-2-hydroxypropoxy}phenyl)acetamide | 2.34 mmol, 0.95 g | ClC1=CC=C(OC2CN(CC2)CC(COC2=C(C=CC=C2)NC(C)=O)O)C=C1 | C21H25ClN2O4
reactant | hydrochloric acid | 25 mL | Cl | ClH
reactant | methanol | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-(2-Aminophenoxy)-3-[3-(4-chlorophenoxy)-1-pyrrolidinyl]-2-propanol Dihydrochloride | 0.93 g, 91.2% | Cl.Cl.NC1=C(OCC(CN2CC(CC2)OC2=CC=C(C=C2)Cl)O)C=CC=C1 | InChI=1S/C19H23ClN2O3.2ClH/c20-14-5-7-16(8-6-14)25-17-9-10-22(12-17)11-15(23)13-24-19-4-2-1-3-18(19)21;;/h1-8,15,17,23H,9-13,21H2;2*1H
